US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3-chloro-4-trifluoromethylphenylboronic acid (33.7 mg, 0.15 mmol) gave 4-(3-Chloro-4-trifluoromethyl-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (7.7 mg, 16%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.91 (br.s., 1 H); 8.85 (s, 1 H); 8.48 (d, 1 H); 8.31 (dd, 1 H); 7.89 (d, 1 H); 7.84 (s, 1 H); 7.39 (s, 1 H); 3.86 (s, 3 H), 3.85 (s, 3H). MS 484 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3-chloro-4-trifluoromethylphenylboronic acid | 0.15 mmol, 33.7 mg | ClC=1C=C(C=CC1C(F)(F)F)B(O)O | C7H5BClF3O2
product | 4-(3-Chloro-4-trifluoromethyl-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 7.7 mg, 16% | ClC=1C=C(C=CC1C(F)(F)F)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C20H13ClF3N3O4S
